US05015653
L-Glutamic acid, monosodium salt (250 g, 1.33 mol) was added at room temperature to a solution of sodium hydroxide (53.6 g, 1.34 mol) in 550 mL of water. To the resulting solution was added benzaldehyde (142.3 g, 1.34 mol). The mixture was stirred and cooled to 10° C. and sodium borohydride (15.2 g, 0.409 mol) was added in portions, keeping the temperature at 10°-15° C. The mixture was stirred for 30 min, and another portion of benzaldehyde (7.5 g, 0.07 mol) was added. After 10 min, a second portion of sodium borohydride (3.7 g, 0.10 mol) was added as before. The mixture was then allowed to stir at room temperature overnight. The solution was washed with methylene chloride (250 mL, discarded), and acidified to pH 3 with 6N HCl. The paste, consisting of N-(phenylmethyl)-L-glutamic acid, was diluted with 500 mL of H2O and heated to reflux overnight. The resulting solution was cooled to room temperature and extracted with chloroform. The combined extracts were washed with brine, dried over Na2SO4, and concentrated on a rotary evaporator to give 160 g (55% yield) of (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid as a white solid.

reactant | L-Glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | monosodium | 1.33 mol, 250 g | [Na] | Na
reactant | sodium hydroxide | 1.34 mol, 53.6 g | [OH-].[Na+]
reactant | benzaldehyde | 1.34 mol, 142.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.409 mol, 15.2 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.10 mol, 3.7 g | [BH4-].[Na+]
solvent | water | 550 mL | O | H2O
catalyst | benzaldehyde | 0.07 mol, 7.5 g | C(C1=CC=CC=C1)=O | C7H6O
product | (S)-5-oxo-1-(phenylmethyl)-2-pyrrolidinecarboxylic acid | 160 g, 55% yield | O=C1CC[C@H](N1CC1=CC=CC=C1)C(=O)O | C12H13NO3
